US07872028B2
To a solution of (S)-dibenzyl 1-(1-hydroxy-3-(tetrahydro-2H-pyran-4-yl)propan-2-yl)hydrazine-1,2-dicarboxylate (16.52 g, 0.0374 mol) in methanol (320 mL) was added Pd(OH)2/C (1.65 g). The reaction flask was evacuated and filled with H2. Stirring was continued until the starting material had disappeared. The mixture was filtered through celite, and the filter cake was washed with MeOH (2×30 mL). The combined organic solvent was dried over Na2SO4, and concentrated in vacuum to give 2-hydrazino-3-(tetrahydro-pyran-4-yl)-propan-1-ol (6.15 g, 94%), which was used for the next step without purification. 1H NMR (CD3OD) δ 1.2-1.7 (m, 7H), 2.2-2.7 (s, 4H), 2.8-2.9 (m, 1H), 3.3-3.4 (m, 3H), 3.7-3.8 (m, 1H), 3.9-4.0 (m, 2H).

reactant | (S)-dibenzyl 1-(1-hydroxy-3-(tetrahydro-2H-pyran-4-yl)propan-2-yl)hydrazine-1,2-dicarboxylate | 0.0374 mol, 16.52 g | OC[C@H](CC1CCOCC1)N(NC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C24H30N2O6
solvent | methanol | 320 mL | CO | CH4O
catalyst | Pd(OH)2/C | 1.65 g | [OH-].[OH-].[Pd+2]
product | 2-hydrazino-3-(tetrahydro-pyran-4-yl)-propan-1-ol | 6.15 g, 94% | N(N)C(CO)CC1CCOCC1 | C8H18N2O2
